* c:\users\aparv\esim-workspace\ayesha_LDO\ayesha_LDO.cir 
.title sky130_ldo
.param L_0=1
.param L_1=1
.param M_0=1
.param M_1=1
.param W_0=1
.param W_1=1

.lib "../../sky130_pdk/libs.tech/ngspice/sky130.lib.spice" tt 

******* Transistor Connection*****
xMN4 net_d    vbias2     net3     GND  sky130_fd_pr__nfet_01v8 l=L_0 w=W_0
xMP2 net1     net_d   VDD      VDD  sky130_fd_pr__pfet_01v8 l=L_1 w=W_1
xMN1 net3     VFB  net_diff GND  sky130_fd_pr__nfet_01v8 l=L_0 w=W_0
xM4 Vpass   vbias2     net4     GND  sky130_fd_pr__nfet_01v8 l=L_0 w=W_0
xM1 net4     VREF    net_diff GND  sky130_fd_pr__nfet_01v8 l=L_0 w=W_0
xMP3 net_d    vbias1     net1     VDD  sky130_fd_pr__pfet_01v8 l=L_1 w=W_1
xM3 Vpass   vbias1     net2     VDD  sky130_fd_pr__pfet_01v8 l=L_1 w=W_1
xMn5 net_diff VDD     GND      GND  sky130_fd_pr__nfet_01v8 l=L_0 w=W_0
xM5 VDD      VDD     GND      GND  sky130_fd_pr__nfet_01v8 l=L_0 w=W_0
xMP1 Vreg     Vpass  VDD      VDD  sky130_fd_pr__pfet_01v8 l=L_1 w=W_1
xMV2 net2     net_d   VDD      VDD  sky130_fd_pr__pfet_01v8 l=L_1 w=W_1
CL    Vreg     GND     10p

* Feedback resistors
RFB1   Vreg     VFB    150k
RFB2   VFB   GND       150k

***** Power *******

Vdd vdd 0 3.3
Vbias1 vbias1 0 0
vbias2 vbias2 0 3.3
VREF VREF 0 1.2

**** Analysis*****

.dc vdd 2e-00 7e-00 0.1e-00

* Control Statements


.print dc V(vreg)
.meas dc vout FIND V(vreg) AT=3.3
.end
