* c:\users\sreev\esim-workspace2\por\por.cir

.title sky130_por
.param L_0=1
.param M_0=1
.param W_0=1

.lib "../../sky130_pdk/libs.tech/ngspice/sky130.lib.spice" tt
.include "../../sky130_pdk/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pnp_05v5_W3p40L3p40.model.spice"
.include "../../sky130_pdk/libs.tech/ngspice/sky130_fd_pr__model__linear.model.spice"
.include "../../sky130_pdk/libs.tech/ngspice/sky130_fd_pr__model__r+c.model.spice"
.include "../../sky130_pdk/libs.tech/ngspice/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "../../sky130_pdk/libs.tech/ngspice/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "../../sky130_pdk/libs.tech/ngspice/sky130_fd_pr__model__inductors.model.spice"
* s c m o d e
xsc2 net-_sc1-pad1_ gnd iref gnd sky130_fd_pr__nfet_01v8 
xsc3 vdd gnd iref gnd sky130_fd_pr__nfet_01v8 
xsc5 net-_sc5-pad1_ net-_sc4-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc4 net-_sc4-pad1_ net-_sc4-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc8 net-_sc8-pad1_ vdd gnd gnd sky130_fd_pr__nfet_01v8 
xsc10 rstn i_nm1_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc1 net-_sc1-pad1_ rstn vdd vdd sky130_fd_pr__pfet_01v8 l=L_0 w=W_0
xsc7 i_nm1_ net-_sc5-pad1_ vdd vdd sky130_fd_pr__pfet_01v8 l=L_0 w=W_0
xsc9 rstn i_nm1_ vdd vdd sky130_fd_pr__pfet_01v8 l=L_0 w=W_0
xsc6 net-_sc5-pad1_ net-_sc5-pad1_ vdd vdd sky130_fd_pr__pfet_01v8 l=L_0 w=W_0
v1  rstn gnd pulse(0 1 0.007 0.0001 0.0001 0.015 0.0225)
* u1  rstn plot_v1
* u2  iref plot_v1
* u4  i_nm1_ plot_v1
* u3  vdd plot_v1
* u5  iref net-_sc4-pad1_ plot_i2
v2 vdd gnd  dc 0.5
* u6  i_nm1_ net-_sc8-pad1_ plot_i2
v_u5 iref net-_sc4-pad1_ 0
v_u6 i_nm1_ net-_sc8-pad1_ 0
.tran 1e-03 30e-03 0e-03

* Control Statements 

.print tran V(rstn)
.meas tran rstn FIND V(rstn) AT=20m
.end
